US05571774
45 g (0.168 mol) of diethyl 5-nitropyridine-2,3-dicarboxylate were added in the course of 10 minutes with stirring to a mixture of 13.4 g (0.336 mol) of sodium hydroxide in 65 ml of water and washed in with 6.5 ml of ethanol. The mixture was brought to reflux, diluted with a further 30 ml of water and cooled again after heating for 1 hour. The precipitate deposited after the addition of 500 ml of acetone was filtered off with suction, washed and dried, 42.4 g (98.6% of theory) of sodium 5-nitropyridine-2,3-dicarboxylate of m.p.>260° C. being obtained.

reactant | diethyl 5-nitropyridine-2,3-dicarboxylate | 0.168 mol, 45 g | [N+](=O)([O-])C=1C=C(C(=NC1)C(=O)OCC)C(=O)OCC | C11H12N2O6
reactant | sodium hydroxide | 0.336 mol, 13.4 g | [OH-].[Na+]
solvent | water | 65 ml | O | H2O
product | sodium 5-nitropyridine-2,3-dicarboxylate | 42.4 g, 98.6% | [N+](=O)([O-])C=1C=C(C(=NC1)C(=O)[O-])C(=O)[O-].[Na+].[Na+] | InChI=1S/C7H4N2O6.2Na/c10-6(11)4-1-3(9(14)15)2-8-5(4)7(12)13;;/h1-2H,(H,10,11)(H,12,13);;/q;2*+1/p-2
